US05550134
(4aR)-(10bR)-4,10b-dimethyl-8-diphenylmethoxycarbonyl-1,2,3,4,4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one
Under an atmosphere of nitrogen, 100 mg of 4,10b-dimethyl-8-carboxy-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one and 66 mg of 1,1'-carbonyldiimidazole were dissolved in 5 mL of anhydrous dimethylformamide and stirred for 1 h. Then 74 mg of benzhydrol was added, and the reaction was stirred for 18 hours, still at ambient temperature. The volatiles were then removed under high vacuum, and the residue was dissolved in 50 mL of dichloromethane and washed with 40 mL of 1N hydrochloric acid, with two 40 mL portions of saturated aqueous sodium bicarbonate, and finally with 40 mL of brine. The organic layer was dried with sodium sulfate, filtered and evaporated under vacuum to give 141 mg of impure product, which was purified by chromatography on silica gel, eluting with ethyl acetate to obtain 91 mg (57%) of the desired product. An analytical sample was recrystallized from ethyl acetate/water. mp 130°-131°. FDMS: m/e=439.

reactant | 4,10b-dimethyl-8-carboxy-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 100 mg | CN1C(CCC2(C3=C(CCC12)C=C(C=C3)C(=O)O)C)=O | C16H19NO3
reactant | 1,1'-carbonyldiimidazole | 66 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | benzhydrol | 74 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (4aR)-(10bR)-4,10b-dimethyl-8-diphenylmethoxycarbonyl-1,2,3,4,4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one | 141 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C)=O | C29H29NO3
